US04649146
A mixture of 2-methylamino-4-formyl-5-(4-pyridyl)thiazole (1.1 g) and triphenylphosphinecarbomethoxymethylene (3.34 g) in tetrahydrofuran (80 ml) was stirred at 40° to 45° C. for 2.5 hours. The reaction mixture was poured into water and the resultant solution was acidified to pH 1.0 with 10% hydrochloric acid. The acidified solution was washed with ethyl acetate. The aqueous solution was adjusted to pH 7.0 with 20% aqueous potassium carbonate and extracted with ethyl acetate. The organic extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel eluting with a mixture of ethyl acetate and tetrahydrofuran (8:2). The fractions containing the desired compound were combined and evaporated in vacuo to give methyl 2-methylamino-5-(4-pyridyl)-4-thiazoleacrylate (trans isomer) (0.66 g). mp 166°-167° C.

reactant | 2-methylamino-4-formyl-5-(4-pyridyl)thiazole | 1.1 g | CNC=1SC(=C(N1)C=O)C1=CC=NC=C1 | C10H9N3OS
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | methyl 2-methylamino-5-(4-pyridyl)-4-thiazoleacrylate | 0.66 g | CNC=1SC(=C(N1)C=CC(=O)OC)C1=CC=NC=C1 | C13H13N3O2S
